US05998436
Synthesis of ethyl 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 5 ml of chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 0.70 g of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added 430 mg of 2-amino-3,5-difluoro-6-(methylamino)pyridine. The solution was concentrated under reduced pressure. To the residue were added 0.3 g of anhydrous potassium carbonate and 2 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 10 minutes and allowed to cool. The solution was separated by adding 30 ml of chloroform and 300 ml of distilled water, and the chloroform layer was washed twice with 300 ml distilled water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and allowed to stand. The precipitate was collected by filtration, washed with ethanol and diisopropylether successively to obtain 784 mg of the title compound as a colorless powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 0.70 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2-amino-3,5-difluoro-6-(methylamino)pyridine | 430 mg | NC1=NC(=C(C=C1F)F)NC | C6H7F2N3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-methylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 784 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC)C(=O)OCC)=O)F)F | C18H12ClF4N3O3
